US05607929
Using a procedure analagous to that of Example 3, 4-trifluoromethyl-2-aminothiophenol hydrochloride (11.48 g, 50 mmol) was combined with 2-fluorobenzonitrile in DMF as solvent (100 ml) to give crude 2-(4-trifluoromethyl-2-aminophenylthio) benzonitrile (6.84 g). Hydrolysis and subsequent condensation gave the title compound as off-white crystals from ethanol (1.1 g, m.p. 233°-235° C., Rf 0.21, CH2Cl2 /MeOH 50:1).

reactant | 4-trifluoromethyl-2-aminothiophenol hydrochloride | 50 mmol, 11.48 g | Cl.FC(C1=CC(=C(C=C1)S)N)(F)F
reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-trifluoromethyl-2-aminophenylthio) benzonitrile | 6.84 g | FC(C1=CC(=C(C=C1)SC1=C(C#N)C=CC=C1)N)(F)F | C14H9F3N2S
